US07115589B2
(3,4-Dihydroxy-benzyl)-carbamic Acid Tert-butyl Ester:
4-Aminomethyl-benzene-1,2-diol hydrobromide (5.6 g, 25.2 mmol) was dissolved in CH3CN/H2O 1:1 (100 mL). NaHCO3 (4.3 g, 50.4 mmol) was added followed by Boc2O (5.5 g, 25.2 mmol). The mixture was stirred for 18 h, concentrated, and extracted with EtOAc. The combined extracts were washed with water, dried over magnesium sulfate, and concentrated to a tan solid which was used without purification in the next reaction.

reactant | 4-Aminomethyl-benzene-1,2-diol hydrobromide | 25.2 mmol, 5.6 g | Br.NCC=1C=C(C(=CC1)O)O
reactant | NaHCO3 | 50.4 mmol, 4.3 g | C(=O)(O)[O-].[Na+]
reactant | Boc2O | 25.2 mmol, 5.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN H2O | 100 mL | CC#N.O
product | (3,4-Dihydroxy-benzyl)-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)O)O)=O | C12H17NO4
